US06582351B1
Phosphorus oxychloride (2.99 mL) was added dropwise to N,N-dimethylformamide (49 mL) at 0° C., and the mixture was stirred at the same temperature for 15 minutes. Then 6-hydroxy-5-nitronicotinamide (4.9 g) was added portionwise to the mixture, and the reaction mixture was stirred at 50° C. for an hour. Water was added to the reaction mixture at 0° C., and the resulting precipitate was collected by filtration in vacuo. The obtained solid was washed with water to give 5-cyano-2-hydroxy-3-nitropyridine (3.17 g) as a pale brown solid.

reactant | Phosphorus oxychloride | 2.99 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 49 mL | CN(C=O)C | C3H7NO
reactant | 6-hydroxy-5-nitronicotinamide | 4.9 g | OC1=NC=C(C(=O)N)C=C1[N+](=O)[O-] | C6H5N3O4
solvent | Water | O | H2O
product | 5-cyano-2-hydroxy-3-nitropyridine | 3.17 g | C(#N)C=1C=C(C(=NC1)O)[N+](=O)[O-] | C6H3N3O3
